US06627732B1
SOCl2 (4.3 ml) was added to an EtOH suspension (150 ml) of D-phenylglycine (8.00 g) at −50° C. The cooling of the reaction was stopped and then stirred for 71 hours at room temperature. After concentrating the reaction mixture under reduced pressure, Et2O was added to the crude crystals and then filtered to obtain the D-Phg-OEt hydrochloride.

reactant | SOCl2 | 4.3 ml | O=S(Cl)Cl | Cl2OS
reactant | D-phenylglycine | 8.00 g | C1=CC=C(C=C1)[C@H](C(=O)O)N | C8H9NO2
reactant | EtOH | 150 ml | CCO | C2H6O
product | D-Phg-OEt hydrochloride | N[C@H](C1=CC=CC=C1)C(=O)OCC.Cl | InChI=1S/C10H13NO2.ClH/c1-2-13-10(12)9(11)8-6-4-3-5-7-8;/h3-7,9H,2,11H2,1H3;1H/t9-;/m1./s1
